US05484584
Radiolabeling of Ethyl Iopanoate
2 g (3.5 mmol) of iopanoic acid was dissolved in 50 ml absolute ethanol, and 0.4 ml (5,25 mmol) thionyl chloride was added. The reaction was refluxed for 3 hours. After cooling, the reaction mixture was evaporated and reconstituted in 100 ml methylene chloride. The organic mixture was washed twice with 25 ml 5% NaOH and twice with 25 ml water. The methylene chloride layer was dried over MgSO4 and evaporated to dryness, yielding 1.73 g of ethyliopanoate (82.4%). The structure was provided by 1H nuclear magnetic resonance and mass spectrometry (M+ 599). The radioisotope exchange reaction was carried out using a known procedure with some modification (Zupon, et al., 1983; Kroschwitz, 1989). Briefly, 10 mg of the ester and 0.3 ml of tetrahydrofuran were placed in a vial and treated with 1.6 mCi of [131I]sodium iodide (in 100 μl of 0.1M sodium borate buffer). Pivalic acid (25 mg) was then added. The reaction vial was sealed and heated at 150° C. for 1.5 hours. The vial was cooled and the ethyliopanoate reconstituted in methylene chloride (0.1 ml) and chromatographed on a silica gel column with methylene chloride/methanol (9:1) as the eluent. This yielded 0.54 mCi ethyliopanoate (34%). Radiochemical purity was determined by co-chromatography on a silica gel plate eluted with methylene chloride methanol (9:1); unlabeled ester served as the standard, with a retardation factor of 0.80.

reactant | iopanoic acid | 3.5 mmol, 2 g | CCC(CC=1C(=CC(=C(C1I)N)I)I)C(=O)O | C11H12I3NO2
reactant | thionyl chloride | 5,25 mmol, 0.4 ml | S(=O)(Cl)Cl | Cl2OS
reactant | tetrahydrofuran | 0.3 ml | O1CCCC1 | C4H8O
reactant | Pivalic acid | 25 mg | C(C(C)(C)C)(=O)O | C5H10O2
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | methylene chloride | 0.1 ml | C(Cl)Cl | CH2Cl2
product | Ethyl Iopanoate | CCC(CC1=C(C(=C(C=C1I)I)N)I)C(=O)OCC | C13H16I3NO2
